US07888364B2
107 mg of a mixture of 4-((4H-1,2,4-triazol-3-ylsulfinyl)methyl)benzoic acid and 4-((4H-1,2,4-triazol-3-ylsulfonyl)methyl)benzoic acid was coupled to 75 mg of 4-chloro-3-(pyridin-2-yl)aniline via Procedure G. The mixture was seperated on reverse phase HPLC to give 4-((4H-1,2,4-triazol-3-ylsulfonyl)methyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide. MS (Q1) 454.3 (M)+.

reactant | 4-((4H-1,2,4-triazol-3-ylsulfinyl)methyl)benzoic acid | N=1N=C(NC1)S(=O)CC1=CC=C(C(=O)O)C=C1 | C10H9N3O3S
reactant | 4-((4H-1,2,4-triazol-3-ylsulfonyl)methyl)benzoic acid | N=1N=C(NC1)S(=O)(=O)CC1=CC=C(C(=O)O)C=C1 | C10H9N3O4S
reactant | 4-chloro-3-(pyridin-2-yl)aniline | 75 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
product | 4-((4H-1,2,4-triazol-3-ylsulfonyl)methyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide | N=1N=C(NC1)S(=O)(=O)CC1=CC=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1 | C21H16ClN5O3S
